US08222248B2
To a solution of 4-bromo-3,5-dimethyl-phenylamine (130 mg) in CH2Cl2 (4 mL) was added acetic anhydride (0.123 mL) at 0° C. The mixture was allowed to warm up to room temperature and stirred for 2 h. The mixture was concentrated under reduced pressure. The crude product was purified by column chromatography (SiO2, EtOAc:Hexane=10:90 to 60:40) to give N-(4-bromo-3,5-dimethyl-phenyl)-acetamide: MS (m/z) 244 (M+1); 1H NMR (CDCl3, 400 MHz) δ 7.24 (s, 2H), 2.35 (s, 6H), 2.13 (s, 3H).

reactant | 4-bromo-3,5-dimethyl-phenylamine | 130 mg | BrC1=C(C=C(C=C1C)N)C | C8H10BrN
reactant | acetic anhydride | 0.123 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(4-bromo-3,5-dimethyl-phenyl)-acetamide | BrC1=C(C=C(C=C1C)NC(C)=O)C | C10H12BrNO
